US04303655
To dimethylformamide (3.74 g.) was dropwise added phosphorus oxychloride (6.46 g.) over 5 minutes under stirring and ice-cooling, and the mixture was stirred for 30 minutes at 40° C. To the mixture was added ethyl acetate (120 ml.) with stirring, and the mixture was cooled to -20° C. with stirring. To the mixture was added all at once 2-(2-oxo-2,3-dihydro-1,3-thiazol-4-yl)glyoxylic acid, which can be represented as 2-(2-hydroxy-1,3-thiazol-4-yl)glyoxylic acid, (6.05 g.) and to the mixture was added dimethylformamide (55 ml.) over 10 minutes at -20° C., and then the mixture was stirred for 40 minutes at the same temperature. Thus obtained mixture was added to the solution prepared in the similar manner as in Example 1 from 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7amino-3-cephem-4-carboxylic acid (10.50 g.), bis(trimethylsilyl)acetamide (35 ml.) and ethyl acetate (150 ml.), at - 50° to -40° C. with stirring. The mixture was stirred for 30 minutes at -40° C. and further stirred for 30 minutes at -20° C. After the reaction, the reaction mixture was poured into 5% sodium bicarbonate aqueous solution (250 ml.), and the aqueous layer was separated. The aqueous layer was washed with ethyl acetate and adjusted to pH 1 with 10% hydrochloric acid, and then extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate and then treated with activated charcoal. After distillation of ethyl acetate from the extract, the residue was pulverized in diethyl ether, collected by filtration and dried to give pale yellow powder of 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-[2-(2-oxo-2,3-dihydro-1,3-thiazol-4-yl)glyoxylamido]-3-cephem-4carboxylic acid, which can be represented as 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-[2-(2-hydroxy-1,3-thiazol-4-yl)glyoxylamido]-3-cephem-4-carboxylic acid, (9.2 g.).

reactant | phosphorus oxychloride | 6.46 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(2-oxo-2,3-dihydro-1,3-thiazol-4-yl)glyoxylic acid | O=C1SC=C(N1)C(C(=O)O)=O | C5H3NO4S
reactant | 2-(2-hydroxy-1,3-thiazol-4-yl)glyoxylic acid | OC=1SC=C(N1)C(C(=O)O)=O | C5H3NO4S
reactant | 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7amino-3-cephem-4-carboxylic acid | 10.50 g | CN1N=NN=C1SCC=1CS[C@H]2N(C1C(=O)O)C(C2N)=O | C10H12N6O3S2
reactant | bis(trimethylsilyl)acetamide | 35 ml | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | sodium bicarbonate | 250 ml | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 55 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 120 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 3.74 g | CN(C=O)C | C3H7NO
product | 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-[2-(2-oxo-2,3-dihydro-1,3-thiazol-4-yl)glyoxylamido]-3-cephem-4carboxylic acid | CN1N=NN=C1SCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(=O)C=2NC(SC2)=O)=O)=O | C15H13N7O6S3
